US09102688B2
General Procedure 57: 4-Nitro-benzothiazole (Intermediate 222)
KNO3 (1.95 g, 19.3 mmol) was added portionwise to an ice-cold solution of 1,3-benzothiazole (2.0 g, 14.8 mmol) in H2SO4 (5 ml) while maintaining the temperature below 10° C. and the mixture was stirred at 0° C. for 2 h. The mixture was poured onto ice and the aqueous phase was extracted with DCM. The organic phase was washed with sat NaHCO3 solution and brine, dried (Na2SO4) and concentrated in vacuo. The residue was diluted with MeOH (15 ml) and heated under stirring at 65° C. for 1 h, on cooling the resulting precipitate was collected by filtered and washed with MeOH to give the title compound (500 mg, 38%).

reactant | KNO3 | 19.3 mmol, 1.95 g | [N+](=O)([O-])[O-].[K+]
reactant | 1,3-benzothiazole | 14.8 mmol, 2.0 g | S1C=NC2=C1C=CC=C2 | C7H5NS
solvent | H2SO4 | 5 ml | OS(=O)(=O)O | H2O4S
product | 4-Nitro-benzothiazole | 500 mg, 38% | [N+](=O)([O-])C1=CC=CC2=C1N=CS2 | C7H4N2O2S
